### ISSUE TITLE
overzealous simpComm linter?

### ISSUE THREAD

**Issue by kbuzzard** [leanprover/std4#69]
```lean
import Std.Tactic.Lint

def SemiconjBy [Mul M] (a x y : M) : Prop :=
  a * x = y * a

structure MulOpposite (α : Type u) : Type u where
  op :: unop : α

postfix:max "ᵐᵒᵖ" => MulOpposite

namespace MulOpposite

instance [Mul α] : Mul αᵐᵒᵖ where mul x y := op (unop y * unop x)

@[simp]
theorem unop_inj {x y : αᵐᵒᵖ} : unop x = unop y ↔ x = y := by
  cases x; cases y; simp

@[simp]
theorem semiconj_by_unop [Mul α] {a x y : αᵐᵒᵖ} :
    SemiconjBy (unop a) (unop y) (unop x) ↔ SemiconjBy a x y := sorry

end MulOpposite

#lint only simpComm
/- The `simpComm` linter reports:
COMMUTATIVITY LEMMA IS SIMP.
Some commutativity lemmas are simp lemmas: -/
-- Mathlib.scratch.scratch1
#check @MulOpposite.unop_inj /- should not be marked simp -/
#check @MulOpposite.semiconj_by_unop /- should not be marked simp -/
```

As reported on Zulip [here](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/possible.20linter.20bugs/near/316228449) and more discussion [here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/make.20.60MulOpposite.60.20a.20structure/near/316534572). For now I'm just marking the declarations with `nolint`. 

For completeness, here's the corresponding Lean 3 code, which lints:
```lean
-- lean 3
import tactic.lint

variable {α : Type*}

universe u

def SemiconjBy [has_mul α] (a x y : α) : Prop :=
  a * x = y * a

structure mul_opposite (α : Type u) : Type u :=
  op :: (unop : α)

postfix `ᵐᵒᵖ`:std.prec.max_plus := mul_opposite

namespace mul_opposite

instance [has_mul α] : has_mul αᵐᵒᵖ := ⟨λ x y, op (unop y * unop x)⟩

@[simp]
theorem unop_inj {x y : αᵐᵒᵖ} : unop x = unop y ↔ x = y := by
  cases x; cases y; simp

@[simp]
theorem semiconj_by_unop [has_mul α] {a x y : αᵐᵒᵖ} :
    SemiconjBy (unop a) (unop y) (unop x) ↔ SemiconjBy a x y := sorry

end mul_opposite

#lint
```
